US05308853
Methyl Z-4-[[2-butyl-5-[[1-butyl-2,5-dioxo-3-(2-thienylmethyl)-4-imidazolidinylidene]methyl]-1H-imidazol-1-yl]methyl]benzoate monohydrochloride
To a solution of methyl Z-4-[[2-butyl-5-[[1-butyl-2,5-dioxo-3-(2-thienylmethyl)-4-imidazolidinylidene]methyl]-1H-imidazol-1-yl]methyl]benzoate (0.70 g, 1.46 mmol) in warm DMF (10 mL) is added K2CO3 (2.0 g, 15 mmol). After stirring for 5 minutes 1-iodobutane (0.312 g, 1.7 mmol) is added. The mixture is stirred for 2 hours. The mixture is filtered and the filtrate is concentrated in vacuo and treated with water (20 mL) to afford a gum upon decantation. This gum is dissolved in ether and washed with water and then dried over K2CO3. A viscous oil is obtained by evaporation of the solvents in vacuo. This oil is dissolved in ether and treated with ethereal HCl to precipitate a gum which is collected by decantation. This gum is dissolved in warm ethanol and ether is added to induce crystallization. The crystals are collected and washed with ether.

reactant | methyl Z-4-[[2-butyl-5-[[1-butyl-2,5-dioxo-3-(2-thienylmethyl)-4-imidazolidinylidene]methyl]-1H-imidazol-1-yl]methyl]benzoate | 1.46 mmol, 0.70 g | C(CCC)C=1N(C(=CN1)\C=C\1/N(C(N(C1=O)CCCC)=O)CC=1SC=CC1)CC1=CC=C(C(=O)OC)C=C1 | C29H34N4O4S
reactant | K2CO3 | 15 mmol, 2.0 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-iodobutane | 1.7 mmol, 0.312 g | ICCCC | C4H9I
reactant | HCl | Cl | ClH
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | ether | CCOCC | C4H10O
product | Methyl Z-4-[[2-butyl-5-[[1-butyl-2,5-dioxo-3-(2-thienylmethyl)-4-imidazolidinylidene]methyl]-1H-imidazol-1-yl]methyl]benzoate monohydrochloride | Cl.C(CCC)C=1N(C(=CN1)\C=C\1/N(C(N(C1=O)CCCC)=O)CC=1SC=CC1)CC1=CC=C(C(=O)OC)C=C1 | InChI=1S/C29H34N4O4S.ClH/c1-4-6-10-26-30-18-23(32(26)19-21-11-13-22(14-12-21)28(35)37-3)17-25-27(34)31(15-7-5-2)29(36)33(25)20-24-9-8-16-38-24;/h8-9,11-14,16-18H,4-7,10,15,19-20H2,1-3H3;1H/b25-17-;
